US08629137B2
6-chloro-pyrimidine-4-carboxylic Acid methoxy-methyl-amide
20.7 mL (0.120 mol) DIPEA were added at 0° C. to 10.7 g (54.4 mmol) 6-chloropyrimidine-4-carboxylic acid chloride and 5.50 g (56.4 mmol) N,O-dimethylhydroxylamine in 150 mL DCM and stirred for 1 h at 0° C. and 1 h at RT. The mixture was diluted with DCM and washed with water. The organic phase was dried on sodium sulphate, filtered and evaporated down.

reactant | DIPEA | 0.120 mol, 20.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloropyrimidine-4-carboxylic acid chloride | 54.4 mmol | ClC1=CC(=NC=N1)C(=O)Cl | C5H2Cl2N2O
reactant | N,O-dimethylhydroxylamine | 56.4 mmol, 5.50 g | CNOC | C2H7NO
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-pyrimidine-4-carboxylic Acid methoxy-methyl-amide | CON(C(=O)C1=NC=NC(=C1)Cl)C | C7H8ClN3O2
